US07094801B2
Ex-42A: 3-(Thiophen-2-yl)-benzaldehyde was prepared from 3-bromobenzaldehyde and thiophene-2-boronic acid in a similar manner as described in Ex-3A. Orange oil, 93% yield. 1H-NMR (CDCl3) δ 10.06 (s, 1H), 8.10 (s, 1H), 7.86 (d, J=8.4 Hz, 1H), 7.78 (d, J=7.2 Hz, 1H), 7.55 (dd, J=7.2, 8.4 Hz, 1H), 7.40 (dd, J=1.5, 3.6 Hz, 1H), 7.34 (dd, J=1.5, 5.3 Hz, 1H), 7.11 (dd, J=3.6, 5.3 Hz, 1H). HRMS m/z: calc. 188.0296. found 188.0293.

reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 3-(Thiophen-2-yl)-benzaldehyde | 93% yield | S1C(=CC=C1)C=1C=C(C=O)C=CC1 | C11H8OS
